US04001418
A solution of 1'-benzyl-4-methoxythioxanthene-9-spiro-4'-piperidine (15.48 g.) and cyanogen bromide (4.68 g.) in methylene chloride (155 ml.) is stirred at ambient temperature overnight. The solvent is evaporated in vacuo, the residual gum dissolved in toluene and subjected to chromatography on magnesium silicate (200 g.), eluting consecutively with petroleum ether (b.p. 60°-80° C.) (5 × 200 ml.), toluene (5 × 200 ml.) and chloroform (5 × 200 ml.). The combined chloroform fractions are evaporated in vacuo and the residual gum is triturated with ice-cold ether to give 1'-cyano-4-methoxythioxanthene-9-spiro-4'-piperidine, m.p. 145°-146° C. on recrystallisation from toluene/ether 1/2.5.

reactant | 1'-benzyl-4-methoxythioxanthene-9-spiro-4'-piperidine | 15.48 g | C(C1=CC=CC=C1)N1CCC2(CC1)C1=CC=CC=C1SC=1C(=CC=CC12)OC | C25H25NOS
reactant | cyanogen bromide | 4.68 g | N#CBr | CBrN
solvent | methylene chloride | 155 ml | C(Cl)Cl | CH2Cl2
product | 1'-cyano-4-methoxythioxanthene-9-spiro-4'-piperidine | C(#N)N1CCC2(CC1)C1=CC=CC=C1SC=1C(=CC=CC12)OC | C19H18N2OS
